US07244759B2
A mixture of 2-amino-2-(3-cyclopentyloxy-4-methoxyphenyl)ethanenitrile acetate (3.5 g, 11.0 mmol) and 3-acetamidophthalic anhydride (2.3 g, 11.0 mmol) in glacial acetic acid (40 mL) was heated to reflux for 17 hours. The mixture was concentrated in vacuo to give an oil. The oil was dissolved in EtOAc and washed with water, brine and dried (MgSO4). Solvent was removed and the residue was purified by chromatography (SiO2, CH2Cl2: EtOAc 98:2) to give 3.1 g (62%) of N-{2-[cyano(3-cyclopentyloxy-4-methoxyphenyl)methyl]-1,3-dioxoisoindolin-4-yl}acetamide as white solid; mp 124-126° C.; 1H NMR (CDCl3) δ 9.44 (s, 1H), 8.76 (d, J=8.4 Hz, 1H), 7.67 (t, J=7.6 Hz, 1H), 7.52 (d, J=7.2 Hz, 1H), 7.03-6.99 (m, 2H), 6.84 (d, J=8.0 Hz, 1H), 5.60-5.53 (dd, J=6.2 and 10.4 Hz, 1H), 4.79-4.74 (m, 1H), 3.86-3.75 (m, 1H), 3.82 (s, 3H), 3.29-3.20 (dd, J=6.4 and 17 Hz, 1H), 2.72 (s, 3H0, 1.97-1.56 (m, 8H); 3C NMR (CDCl3) δ 169.58, 169.11, 167.18, 150.61, 147.98, 137.72, 136.28, 130.89, 128.66, 125.09, 119.80, 118.29, 116.78, 114.19, 111.90, 80.68, 56.02, 51.10, 32.73, 24.92, 24.03, 21.07. Analy. Calculated for C25H25N3O5: C, 67.10; H, 5.63; N, 9.39. Found: C, 66.89; H, 5.42; N, 9.26.

reactant | 2-amino-2-(3-cyclopentyloxy-4-methoxyphenyl)ethanenitrile acetate | 11.0 mmol, 3.5 g | C(C)(=O)O.NC(C#N)C1=CC(=C(C=C1)OC)OC1CCCC1
reactant | 3-acetamidophthalic anhydride | 11.0 mmol, 2.3 g | C(C)(=O)NC1=C2C(C(=O)OC2=O)=CC=C1 | C10H7NO4
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-{2-[cyano(3-cyclopentyloxy-4-methoxyphenyl)methyl]-1,3-dioxoisoindolin-4-yl}acetamide | 3.1 g, 62% | C(#N)C(N1C(C2=CC=CC(=C2C1=O)NC(C)=O)=O)C1=CC(=C(C=C1)OC)OC1CCCC1 | C24H23N3O5
